US07323475B2
b) 4-Hydroxy-6-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester
540 mg of 1-bromo-4-hydroxy-6-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester (1.25 mmol) were reacted with red phosphorous and HI analogously to Example D-1 f). The crude product was purified by flash column chromatography on silica gel eluting with hexanes:ethyl acetate (85:15). 150 mg of the title compound were obtained; 1H NMR (CDCl3): δ=11.78 (s, 1H), 8.71 (d, 1H), 8.11 (t, 1H), 7.79 (d, 1H), 7.39 to 7.54 (m, 6H), 4.49 (t, 2H), 1.87 (m, 2H), 1.47 (m, 2H), 0.98 (t, 3H).

reactant | 1-bromo-4-hydroxy-6-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester | 1.25 mmol, 540 mg | C(CCC)OC(=O)C=1N=C(C2=CC=C(C=C2C1O)SC1=CC=CC=C1)Br | C20H18BrNO3S
reactant | HI | I | HI
product | 4-Hydroxy-6-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester | 150 mg | C(CCC)OC(=O)C=1N=CC2=CC=C(C=C2C1O)SC1=CC=CC=C1 | C20H19NO3S
